US05760032
9-Aminomethyl-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (20 g) was dissolved in chloroform (200 ml). tert-Butyl dicarbonate (13.4 g) was added under ice-cooling, and the mixture was stirred at room temperature for 4 hours. The mixture was washed with a saturated aqueous sodium hydrogen-carbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from a mixed solvent of ethyl acetate and hexane to give 23.85 g of 9-(tert-butoxycarbonylaminomethyl)-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine.

reactant | 9-Aminomethyl-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 20 g | NCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)CC | C17H16ClN5S
reactant | tert-Butyl dicarbonate | 13.4 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-(tert-butoxycarbonylaminomethyl)-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 23.85 g | C(C)(C)(C)OC(=O)NCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)CC | C22H24ClN5O2S
